US06570020B2
4b(S)-Benzyl-7-oxo-4b,5,6,7,8,8a(R),9,10-octahydro-phenanthrene-2-carbonitrile.
To a solution of water wet 5% palladium on carbon (7.0 grams) and K2CO3 (7.0 g) in THF (100 mL) was added 4b(S)-Benzyl-7-ethoxy4b,5,6,10-tetrahydro-phenanthrene-2-carbonitrile (35.0 g, 103 mmol) in tetrahydrofuran (600 mL). The resulting slurry was transferred to a 1L hydrogenator with overhead stirring under 50 psi of hydrogen. After 5 hours no starting material could be detected by HPLC and the reaction mixture was filtered through a pad of Celite. The filtrate was diluted with 1N hydrochloric acid (70 mL) and after standing for 1 hour no vinyl ether could be detected by HPLC. The solution was diluted with EtOAc (700 mL), water (700 mL) and brine (100 mL) and phases were separated. The organic was washed with water (700 mL) and brine (700 mL). The organic was concentrated under reduced pressure to approximately 500 mL and EtOAc (500 mL) was added and the solution concentrated again to approximately 300 mL. To the vigorously stirring solution were added hexanes (1 L) in one portion. The resulting solids were allowed to granulate for 1 hour and then filtered. HPLC showed some impurities so the solids were allowed to granulate in hexanes (75 mL) and EtOAc (25 mL) for 24 hours. The solids were filtered and allowed to air dry. The mother liquor was concentrated to give orange solids, which were granulated in EtOAc (15 mL) and hexanes (85 mL) for 24 hours. The solids were filtered and combined with the first crop. After air drying overnight a white solid was collected: 18 grams (57.1 mmol), 56% yield; mp 128-129 ° C.; IR (film) ν 2226, 1713 cm−1; [α]25D−252.50; 1H NMR (CDCl3) δ 7.43 (s, 1H), 7.21-7.08 (m, 4H), 6.58 (d, 2H, J=7.1 Hz), 6.40 (d, 1H, J=7.9 Hz), 3.21 (d, 1H, J=13.3 Hz), 3.13-2.97 (m, 2H), 2.85 (ddd, 1H, J=14.9, 14.9, 6.2 Hz), 2.80 (d, 1H, J=14.1 Hz), 2.66-2.51 (m,2H), 2.60 (d, 1H, J=14.1 Hz), 2.45-2.40 (m, 1H), 2.24-2.1 (m, 1H), 2.09-1.98 (m, 1H), 1.83-1.76 (m, 1H), 1.61 (dd, 1H, J=14.1, 14.1, 5.4 Hz); 13C NMR (CDCl3) δ 210.1, 147.6, 137.3, 136.5, 133.1, 130.9, 128.4, 128.1, 128.0, 127.0, 119.3, 110.4, 44.5, 42.7, 40.7, 38.2, 36.2, 33.0, 28.0, 24.7. Anal. Calcd for C22H2,NO: C, 83.77; H, 6.71; N, 4.44. Found: C, 83.76; H, 6.90; N, 4.40. The structure and absolute configuration were confirmed by single crystal X-ray analysis.

reactant | water | 7.0 grams | O | H2O
reactant | K2CO3 | 7.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4b(S)-Benzyl-7-ethoxy4b,5,6,10-tetrahydro-phenanthrene-2-carbonitrile | 103 mmol, 35.0 g | C(C1=CC=CC=C1)[C@@]12C=3C=CC(=CC3CC=C2C=C(CC1)OCC)C#N | C24H23NO
reactant | hydrogen | [H][H] | H2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | tetrahydrofuran | 600 mL | O1CCCC1 | C4H8O
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 4b(S)-Benzyl-7-oxo-4b,5,6,7,8,8a(R),9,10-octahydro-phenanthrene-2-carbonitrile | 56% yield | C(C1=CC=CC=C1)[C@@]12C=3C=CC(=CC3CC[C@@H]2CC(CC1)=O)C#N | C22H21NO
